US04701542
244 ml of cyclopentadiene were slowly added to a mixture of 208 g of 5-hydroxy-2(5H)-furanone, 350 mg of hydroquinone and 1.05 liters of chloroform while keeping the temperature at 45°-47° C. and the mixture was stirred at 20° C. for 17 hours and was evaporated to dryness under reduced pressure. The residue was added to isopropyl ether and the mixture was heated to reflux with stirring and was cooled and vacuum filtered. The solid was dissolved in methylene chloride and the solution was treated with activated carbon and evaporated to dryness under reduced pressure. The residue and isopropyl ether was heated to reflux with stirring and was cooled and vacuum filtered to obtain 325.7 g of racemic 1-hydroxy-3-oxo-1,3,3a,7a-tetrahydro-4,7-methanoisobenzofuran melting at 105° C.

reactant | cyclopentadiene | 244 ml | C1=CC=CC1 | C5H6
reactant | 5-hydroxy-2(5H)-furanone | 208 g | OC1C=CC(O1)=O | C4H4O3
reactant | hydroquinone | 350 mg | C1(O)=CC=C(O)C=C1 | C6H6O2
solvent | chloroform | 1.05 liters | C(Cl)(Cl)Cl | CHCl3
product | racemic 1-hydroxy-3-oxo-1,3,3a,7a-tetrahydro-4,7-methanoisobenzofuran | 325.7 g | OC1OC(C2C3=CC=C(C12)C3)=O | C9H8O3
